US04760068
To (E)-7-(3-pyridyl)-7-phenyl-6-heptenoic acid (Ia-4, 300 mg was dissolved in 2N HCl (5 ml). The solution was concentrated under reduced pressure. Recrystallization of the resulting crystals from ethanol-isopropyl ether gave (E)-7-(3-pyridyl)-7-phenyl-6-heptenoic acid hydrochloride (Ii-75) (285 mg), m.p. 163°-165° C. Physico-chemical properties including other data are shown in Table 6.

reactant | (E)-7-(3-pyridyl)-7-phenyl-6-heptenoic acid | N1=CC(=CC=C1)/C(=C/CCCCC(=O)O)/C1=CC=CC=C1 | C18H19NO2
reactant | Ia-4 | CCN(CC)CCN1C2=C3C(=C(C=C2)CO)SC4=C(C3=N1)C=CC(=C4)Cl | C20H22ClN3OS
solvent | HCl | 2N, 5 ml | Cl | ClH
product | (E)-7-(3-pyridyl)-7-phenyl-6-heptenoic acid hydrochloride | 285 mg | Cl.N1=CC(=CC=C1)/C(=C/CCCCC(=O)O)/C1=CC=CC=C1 | InChI=1S/C18H19NO2.ClH/c20-18(21)12-6-2-5-11-17(15-8-3-1-4-9-15)16-10-7-13-19-14-16;/h1,3-4,7-11,13-14H,2,5-6,12H2,(H,20,21);1H/b17-11+;
